US07135482B2
3-(2,3-Difluorobenzyl)-N-methoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound can be prepared by coupling of 3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-methoxyamine under the same conditions as those in step (c) of example 1.

reactant | 3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=CC=C1F | C14H9F2N3O2
reactant | N-methoxyamine | CON | CH5NO
product | 3-(2,3-Difluorobenzyl)-N-methoxy-3H-imidazo[4,5-c]pyridine-6-carboxamide | FC1=C(CN2C=NC3=C2C=NC(=C3)C(=O)NOC)C=CC=C1F | C15H12F2N4O2
